US06888003B2
10.1 2,4-Dichloro-5-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)nitrobenzene
3.0 g (10.2 mmol) of 1,3-dichloro-4-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)benzene were dissolved in 10 ml of concentrated sulfuric acid. At 0° C., 0.7 g (11.2 mmol) of 100% strength nitric acid was added dropwise, and the mixture was then stirred at 0° C.-10° C. for 1 h. The reaction mixture was then poured onto ice and the precipitate was filtered off with suction, washed with 100 ml of water and dried. This gave 3.24 g of the nitrobenzene as a yellow solid of melting point 134-137° C.

reactant | 1,3-dichloro-4-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)benzene | 10.2 mmol, 3.0 g | ClC1=CC(=C(C=C1)C1=NN(C(=C1)OC(F)F)C)Cl | C11H8Cl2F2N2O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4-Dichloro-5-(5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)nitrobenzene | ClC1=C(C=C(C(=C1)Cl)C1=NN(C(=C1)OC(F)F)C)[N+](=O)[O-] | C11H7Cl2F2N3O3
